US05082856
A solution (30 ml, 90 mmol) of ca. 3M diborane in tetrahydrofuran was added to 1.80 g (5.4 mmol) of methyl 4-tetradecanoylpyrrole-2-carboxylate prepared in Synthetic Example 6, and then 1 ml of boron trifluoride-diethyl ether complex was further added thereto. The mixture was allowed to stand overnight at room temperature. Methanol and water were successively added to the reaction mixture, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. After removing the solvent under reduced pressure, the residue was purified by subjecting it to column chromatography over silica gel (eluent: ethyl acetate/hexane=1/3) to obtain 0.22 g (13% yield) of methyl 4-tetradecylpyrrole-2-carboxylate, m.p. 80°-82° C.

reactant | diborane | 90 mmol, ca. 3M, 30 ml | B#B | B2
reactant | methyl 4-tetradecanoylpyrrole-2-carboxylate | 5.4 mmol, 1.80 g | C(CCCCCCCCCCCCC)(=O)C=1C=C(NC1)C(=O)OC | C20H33NO3
reactant | Methanol | CO | CH4O
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 4-tetradecylpyrrole-2-carboxylate | 0.22 g, 13% yield | C(CCCCCCCCCCCCC)C=1C=C(NC1)C(=O)OC | C20H35NO2
